US07074819B2
To a stirred solution of ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-11-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]undecanoate (128 mg, 0.17 mmol) in ethyl alcohol (5 ml), was added concentrated aqueous hydrochloric acid (10 drops) at room temperature under N2 atmosphere. The mixture was stirred at room temperature continued for 2.5 days and diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate and concentrated in vacuum. Crude product was purified by flash chromatography on silica gel (hexane:ethyl acetate=3:2) to give ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-11-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]undecanoate as a colorless glassy oil. yield: 102 mg (94%).

reactant | ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-11-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]undecanoate | 0.17 mmol, 128 mg | FC(CCC(=O)C(C(=O)OCC)CCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)(C(F)(F)F)F | C38H51F5O8
solvent | ethyl alcohol | 5 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4,4,5,5,5-pentafluoro-1-oxopentyl)-11-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]undecanoate | FC(CCC(=O)C(C(=O)OCC)CCCCCCCCCC1C(COC2=CC(=CC=C12)O)(C)C1=CC=C(C=C1)O)(C(F)(F)F)F | C34H43F5O6
